US03992540
Using the procedure of Step B of Example 1, 4-hydroxy- 8-trifluoromethyl-3-quinoline carboxylic acid chloride and 2-amino-pyridine were reacted to obtain N-[2-pyridinyl]-4 -hydroxy-8-trifluoromethyl-3-quinoline-carboxamide melting at 335°-336° C.

reactant | 4-hydroxy- 8-trifluoromethyl-3-quinoline carboxylic acid chloride | OC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)Cl | C11H5ClF3NO2
reactant | 2-amino-pyridine | NC1=NC=CC=C1 | C5H6N2
product | N-[2-pyridinyl]-4 -hydroxy-8-trifluoromethyl-3-quinoline-carboxamide | N1=C(C=CC=C1)NC(=O)C=1C=NC2=C(C=CC=C2C1O)C(F)(F)F | C16H10F3N3O2
